* Z:\mnt\design.r\spice\examples\2ndOrderHighpass.asc
L1 N003 0 {L1}
C1 N002 N003 {C1} Rser={R1/2}
G1 0 N002 1 0 {2/R1}
R1 N002 0 {R1/2}
G2 0 2 N003 0 {10*H}
R2 2 0 .1
* .param f0= 1k Q=.5
.param R1=1k
.param L1=R1*Q/(2*pi*f0)
* Most efficient LTSPICE implementation for f0 and Q set by parameters >>>
* R1 is arbitary >>>
* This version puts 1/2 the R1 resistance in the capacitor
.param C1=1/(L1*(2*pi*f0)**2)
* Vout
* Vin
.backanno
.end
